US08455488B2
Synthesis of (9H-fluoren-9-yl)methyl (S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylcarbamate (Compound III-19)
According to the procedure described in the synthesis method of Compound III-1, (S)-1,1-diethoxy-N-(naphthalen-1-ylmethyl)propan-2-amine (Compound IX-2) 12.9 g (45 mmol) and Fmoc-Asn(Trt)-OH 35.1 g (58.8 mmol) were dissolved in DMF (200 ml). HATU (25.6 g, 67.5 mmol) and DIEA (8.7 g, 67.5 mmol) were added at room temperature. The mixture was stirred overnight at room temperature. The mixture was poured into water (800 ml). The solution was extracted with EA (300 ml×3). The combined extracts were dried over Na2SO4 and then filtered. The solvent was removed in vacuo. The residue was purified by column chromatography on silica gel with PE:EA=30:1 to 5:1 to give the title compound 21.4 g, (yield 55%).

reactant | (S)-1,1-diethoxy-N-(naphthalen-1-ylmethyl)propan-2-amine | 45 mmol, 12.9 g | C(C)OC([C@H](C)NCC1=CC=CC2=CC=CC=C12)OCC | C18H25NO2
reactant | Fmoc-Asn(Trt)-OH | 58.8 mmol, 35.1 g | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H32N2O5
reactant | HATU | 67.5 mmol, 25.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 67.5 mmol, 8.7 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
solvent | water | 800 ml | O | H2O
product | (9H-fluoren-9-yl)methyl (S)-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylcarbamate | 21.4 g, yield 55% | C(C)OC([C@H](C)N(C([C@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)CC1=CC=CC2=CC=CC=C12)OCC | C56H55N3O6
